US08022062B2
Use a method similar to the General Procedure 5-3 to react 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (250 mg, 0.588 mmol), palladium(II) acetate (26 mg, 0.118 mmol), tris(dibenzylideneacetone)dipalladium(0) (53 mg, 0.059 mmol), BINAP (0.22 g, 0.353 mmol), 4-(3,3-dimethyl-butyryl)-benzylamine (241 mg, 1.176 mmol) and cesium carbonate (383 mg, 1.176 mmol) in degassed toluene (10 mL). Degas the mixture with vacuum/nitrogen purge and heat to 100° C. for 16 h. Cool the mixture to room temperature, dilute with EtOAc and wash with saturated aqueous NaHCO3. Dry the organic layer over Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and then hexane/EtOAc (90:10, 85:15) to obtain 7-chloro-6-[4-(3,3-dimethyl-butyryl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as oil (185 mg, 65%). MS (ES+) m/z: 481 (M+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.588 mmol, 250 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | BINAP | 0.353 mmol, 0.22 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 4-(3,3-dimethyl-butyryl)-benzylamine | 1.176 mmol, 241 mg | CC(CC(=O)C1=CC=C(CN)C=C1)(C)C | C13H19NO
reactant | cesium carbonate | 1.176 mmol, 383 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.118 mmol, 26 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.059 mmol, 53 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-chloro-6-[4-(3,3-dimethyl-butyryl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 185 mg, 65% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)C(CC(C)(C)C)=O | C25H28ClF3N2O2
